US04874861
To 30 ml of dry tetrahydrofuran was added 0.5 g of 55% sodium hydride. The resulting mixture was kept at room temperature and added dropwise with a solution of 1.8 g of p-t-butylbenzyl mercaptan dissolved in 10 ml of tetrahydrofuran. After ten minutes passed, the resulting mixture was added dropwise with a solution of 2.0 g of 2-t-butyl-5-chloro-4-methyl-3(2H)-pyridazinone dissolved in 10 ml of tetrahydrofuran. After completion of dropwise addition, the resulting mixture was reacted for 2 hours under heat-reflux. After the reaction mixture was concentrated under reduced pressure, it was poured into 50 ml of water and extracted twice with 50 ml of diethyl ether. The resulting organic layer was dried over anhydrous sodium sulfate and freed of solvent by distillation under reduced pressure to give 3.5 g of crude product. The crude product was recrystallized from 5 ml of hexane to obtain 1.6 g of 2-t-butyl-5-(p-t-butylbenzylthio)-4-methyl-3(2H)-pyridazinone.

reactant | sodium hydride | 0.5 g | [H-].[Na+]
reactant | p-t-butylbenzyl mercaptan | 1.8 g | C(C)(C)(C)C1=CC=C(CS)C=C1 | C11H16S
reactant | 2-t-butyl-5-chloro-4-methyl-3(2H)-pyridazinone | 2.0 g | C(C)(C)(C)N1N=CC(=C(C1=O)C)Cl | C9H13ClN2O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | 2-t-butyl-5-(p-t-butylbenzylthio)-4-methyl-3(2H)-pyridazinone | 1.6 g | C(C)(C)(C)N1N=CC(=C(C1=O)C)SCC1=CC=C(C=C1)C(C)(C)C | C20H28N2OS
